US04129590
To a solution of 25.0 g of 1-naphthylamine-3,8-disulfonic acid in 100 ml of water is added 20 ml of 5N sodium hydroxide with stirring. The mixture is warmed on a steambath and diluted with absolute ethyl alcohol to yield a crystalline precipitate. The solid is collected at room temperature and is washed with 75% aqueous ethyl alcohol, ethyl alcohol and ether. The product is dried in vacuo at 110° C. overnight to yield 22.8 g of (87%) 8-amino-1,6-naphthalenedisulfonic acid disodium salt.

reactant | 1-naphthylamine-3,8-disulfonic acid | 25.0 g | C1=CC2=CC(=CC(=C2C(=C1)S(=O)(=O)O)N)S(=O)(=O)O | C10H9NO6S2
reactant | sodium hydroxide | 5N, 20 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethyl alcohol | C(C)O | C2H6O
product | 8-amino-1,6-naphthalenedisulfonic acid disodium salt | 22.8 g, 87% | [Na+].[Na+].NC=1C=C(C=C2C=CC=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C10H9NO6S2.2Na/c11-8-5-7(18(12,13)14)4-6-2-1-3-9(10(6)8)19(15,16)17;;/h1-5H,11H2,(H,12,13,14)(H,15,16,17);;/q;2*+1/p-2
